US06974806B2
Synthesis of (6,7-dichloro-2-oxo-4-phenyl-2H-chromen-3-yl)acetic acid
A solution of 6,7-dichloro-2-oxo-4-phenyl-2H-chromene-3-carboxylic acid (0.8 g) in THF (10 ml) was combined with DMF (1 drop) and oxalyl chloride (0.31 ml), and stirred at room temperature for 1 hour. After the reaction solution was concentrated under reduced pressure, the resultant residue was dissolved in THF (10 ml), and to which a solution of diazomethane prepared from N-methyl-N′-nitro-N-nitrosoguanidine (1.68 g) and potassium hydroxide (3.0 g) in ether (30 ml) was added dropwise. After the effervescence had ceased, the reaction solution was concentrated under reduced pressure. The resultant residue was dissolved in methanol (50 ml), combined with silver oxide, and heated under reflux for 30 minutes. After the insolubles were filtered off, the filtrate was concentrated under reduced pressure, and the residue was purified by a column chromatography (packing: silica gel, eluent: ethyl acetate-hexane=1:4). The resultant crude product of methyl (6,7-dichloro-2-oxo-4-phenyl-2H-chromen-3-yl)acetate was dissolved in acetic acid (5 ml) and concentrated hydrochloric acid (2.5 ml), and heated under reflux for 1 hour. The reaction solution was concentrated under reduced pressure, and the resultant residue was dissolved in a solvent mixture of THF (10 ml) and ethyl acetate (50 ml), and then washed with water followed by a saturated aqueous solution of sodium hydrogen carbonate and a saturated aqueous solution of sodium chloride. After drying over magnesium sulfate, the solvent was distilled off under reduced pressure, and the residue was purified by recrystallization from ethyl acetate to obtain the title compound (0.52 g, yield: 62%).

reactant | 6,7-dichloro-2-oxo-4-phenyl-2H-chromene-3-carboxylic acid | 0.8 g | ClC=1C=C2C(=C(C(OC2=CC1Cl)=O)C(=O)O)C1=CC=CC=C1 | C16H8Cl2O4
reactant | oxalyl chloride | 0.31 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | THF | 10 ml | C1CCOC1 | C4H8O
catalyst | DMF | 1 drop | CN(C)C=O | C3H7NO
product | (6,7-dichloro-2-oxo-4-phenyl-2H-chromen-3-yl)acetic acid | 0.52 g, yield: 62% | ClC=1C=C2C(=C(C(OC2=CC1Cl)=O)CC(=O)O)C1=CC=CC=C1 | C17H10Cl2O4
